US06627732B1
HOBt (1.90 g) was added to a DMF solution (50 ml) of Boc-Cys(Bzl)-OH (4.34 g) and D-Phg-OEt hydrochloride (3.00 g), to which were added N-methylmorpholine (1.65 ml) and WSC (4.00 g) at 0° C. The reaction mixture was stirred at 0° C. for 20 minutes and was further stirred at room temperature for 80 minutes, to which water was added, and extracted with AcOEt. The organic phase was washed with saturated saline, dried with magnesium sulfate anhydride, and then filtered and concentrated. The residue was purified by silica gel chromatography (h-hexane/AcOEt=4/1→2/1) to obtain Boc-Cys(Bzl)-D-Phg-OEt.

reactant | HOBt | 1.90 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-Cys(Bzl)-OH | 4.34 g | N([C@@H](CSCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C15H21NO4S
reactant | D-Phg-OEt hydrochloride | 3.00 g | N[C@H](C1=CC=CC=C1)C(=O)OCC.Cl
reactant | N-methylmorpholine | 1.65 ml | CN1CCOCC1 | C5H11NO
reactant | WSC | 4.00 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Boc-Cys(Bzl)-D-Phg-OEt | N([C@@H](CSCC1=CC=CC=C1)C(=O)N[C@H](C1=CC=CC=C1)C(=O)OCC)C(=O)OC(C)(C)C | C25H32N2O5S
